US08754089B2
A stirred mixture of 2-ethyl-6-fluoroquinolin-4(1H)-one (4.00 g, 21 mmol), I2 (10.62 g, 2.0 eq) and Na2CO3 (3.33 g, 1.5 eq) in THF (100 mL) was stirred at rt overnight. To the reaction mixture was added Na2S2O3 solution, after 2 min the resulted mixture was filtered, washed with water and dried in the air to give a white solid as 2-ethyl-6-fluoro-3-iodoquinolin-4(1H)-one. Mass Spectrum (ESI) m/e=318 (M+1). A mixture of 2-ethyl-6-fluoro-3-iodoquinolin-4(1H)-one (400 mg, 1.3 mmol), 3,5-difluorophenylboronic acid (398 mg, 2.0 eq), Na2CO3 (401 mg, 3.0 eq) and tetrakis(triphenylphosphine)palladium(0) (73 mg, 0.05 eq) in acetonitrile/water (15 mL/5 mL) was purged with N2 and heated to reflux. After overnight, the reaction mixture was cooled at rt, partitioned between water and EtOAc. The layers were separated and the aq layer was extracted with EtOAc (10 mL×2). The combined organic layers were washed with water (10 mL×2), brine (10 mL), dried over Na2SO4, filtered, and concd under reduced pressure. The residue was purified by combiflash on silica gel (EtOAc/DCM, 1:2) to give 3-(3,5-difluorophenyl)-2-ethyl-6-fluoroquinolin-4(1H)-one as a white solid. Mass Spectrum (ESI) m/e=304 (M+1).

reactant | 2-ethyl-6-fluoro-3-iodoquinolin-4(1H)-one | 1.3 mmol, 400 mg | C(C)C=1NC2=CC=C(C=C2C(C1I)=O)F | C11H9FINO
reactant | 3,5-difluorophenylboronic acid | 398 mg, 2.0 eq | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
reactant | Na2CO3 | 401 mg, 3.0 eq | C(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile water | 15 mL | C(C)#N.O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 73 mg, 0.05 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(3,5-difluorophenyl)-2-ethyl-6-fluoroquinolin-4(1H)-one | FC=1C=C(C=C(C1)F)C1=C(NC2=CC=C(C=C2C1=O)F)CC | C17H12F3NO
